LVC SPICE MODELS
* LVC.CIR 
* LOGIC PRODUCTS GROUP 
* NXP SEMICONDUCTORS 
*
* Revision History
* 
* Version  Date         Author  Update
* ------------------------------------------------------------------------
* 1.08     27 Oct 2008  RRV     LVC1G79, LVC3G17 added
* 1.07     08 Sep 2008  RRV     LVC1G80 added (not published)
* 1.06     19 Oct 2006  RRV     LVC1G157 added
*                               LVC240/240/244 Enable corrected
* 1.05     22 Jul 2005  RRV     LVC14A updated
* 1.04     02 May 2005  RRV     LVC06/07 added
* 1.03     27 Apr 1999
**************************************************************************
*  (C) Copyright 2008 NXP Semiconductors                                 *
*  All rights reserved                                                   *
*                                                                        *
*  NXP Semiconductors warrants and represents that the SPICE models      *
*  identified herein are owned by NXP Semiconductors (NXP).  The         *
*  models provided are not warranted as fully representing all of the    *
*  operating characteristics and specifications of the semiconductor     *
*  products to which the models relate.  Moreover, unless there is a     *
*  signed, written agreement to the contrary, these models are furnished *
*  on an "as is" basis without support or warranty of any kind, either   *
*  expressed or implied, regarding the use thereof, and NXP              *
*  specifically disclaims all implied warranties of merchantability and  *
*  fitness of the models for any purpose.                                *
*                                                                        *
*  NXP does not assume any liability arising out of the application      *
*  or use of these SPICE models including infringement of patents and    *
*  copyrights, nor does NXP convey any license under its patents and     *
*  copyrights or the rights of others.                                   *
*                                                                        *
*  NXP provides SPICE models as a service to our customers.  You and     *
*  your company shall not distribute, convey, sell, or give these models *
*  to anyone else without receiving prior written permission from        *
*  NXP.                                                                  *
*                                                                        *
*  NXP reserves the right to make changes without notice to these        *
*  SPICE models to improve reliability, function, or design.             *
*                                                                        *
*  Please be aware that your receipt and subsequent use of the SPICE     *
*  information provided shall serve as acceptance of the terms and       *
*  conditions of this agreement.  If you do not accept these terms, you  *
*  should return or destroy the SPICE models and any other accompanying  *
*  information immediately.                                              *
*                                                                        *
**************************************************************************
* 
*--------------------------------------------------------------* 
* SIMULATION MODULES OF CMOS LOGIC PARTS OF NXP LVC FAMILY     * 
*                     BERKELEY SPICE FORMAT                    * 
*--------------------------------------------------------------* 
* IN ORDER TO SIMULATE A SPECIFIC LVC DEVICE, GO TO THE END OF * 
* FILE UNDER HEADING 'START RUNNING CIRCUIT MODEL' AND REMOVE  * 
* THE COMMENT STATEMENT '*' BEFORE THE REQUIRED DEVICE.        * 
* ALL OTHER DEVICES MUST HAVE AN '*' COMMENT STATEMENT.        * 
* IF YOU LIKE TO SIMULATE WITH FAST OR SLOW PARAMETERS, GO TO  * 
* HEADING 'PROCESS MODELS' AND REMOVE THE COMMENT STATEMENT '*'* 
* BEFORE THE REQUIRED PROCESS MODEL.                           * 
* THREE PACKAGES ARE AVAILABLE FOR SIMULATIONS: SO, SSOP, AND  * 
* TSSOP. TO SELECT A PACKAGE, GO TO THE HEADING 'PACKAGE       * 
* MODELS' AND REMOVE THE COMMENT STATEMENT '*' BEFORE THE      * 
* DESIRED PACKAGE MODEL.                                       * 
* YOU MAY ONLY SIMULATE ONE DEVICE AT THE TIME.                * 
* THE LOAD CIRCUIT AND SIMULATION TIMING SHOULD NORMALLY BE    * 
* ADAPTED TO YOUR SPECIFIC SITUATION.                          * 
*--------------------------------------------------------------* 
* 
****************************************************************** 
*                                                                * 
* These LVC models represent only one data input and one output  * 
* buffer of the device. Devices with a 3-state output buffer,    * 
* have also an Output Enable (OE) input. The devices 137/138/139 * 
* 157 have also an Input Enable (EN) input. Other control inputs * 
* such as DIR or CLK inputs are not modeled. Circuitry between   * 
* the input and output buffers are also omitted, such as gates,  * 
* registers, latches, mux's and intermediate buffers. One result * 
* of this is that LVC models does not show the exact function of * 
* the device. Another result of this is that propagation delays  * 
* in SPICE will not necessarily match with the published AC      * 
* timing specifications in the device datasheet.                 * 
*                                                                * 
****************************************************************** 
*
**************  PACKAGE MODELS  ************** 
************* UNCOMMENT ONLY ONE ************* 
* Each file contains the appropriate package models
*
* SO Package Models
* .INCLUDE so.s

* SSOP Package Models
* .INCLUDE ssop.s

* TSSOP Package Models
.INCLUDE tssop.s 

* XSON Package Models
* Use only for the 1G/2G/3G functions
* .INCLUDE xson.s

* Picogate Package Models
* Use only for the 1G/2G functions
* .INCLUDE sc88.s
* .INCLUDE sc74.s

* VSSOP Package Models
* Use only for the 1G/2G/3G functions
* .INCLUDE vssop.s 

**************  PROCESS MODELS *************** 
************* UNCOMMENT ONLY ONE ************* 
* Nominal parameters 
*.INCLUDE lvcnom.lib 

* Fast parameters
.INCLUDE lvcfast.lib 

* Slow parameters
* .INCLUDE lvcslow.lib 

******* START RUNNING CIRCUIT MODEL ******** 
* Part Type  En  In  Out Vcc Gnd   Subcircuit   

* XLVC3G17        2   4   1   0    INVERT3G17
* XLVC1G79        2   4   1   0    INVERTN
* XLVC1G80        2   4   1   0    INVERT
* XLVC1G157A      0   2   4   1   0     SANDINVN

XLVC00A         2   4   1   0     INVERT 
* XLVC02A         2   4   1   0     INVERT 
* XLVC04A         2   4   1   0     INVERT 
* XLVCU04A        2   4   1   0     INVERT2 

* XLVC06A         2   4   1   0     INVERT10
* OPEN DRAIN OUTPUT

* XLVC07A         2   4   1   0     INVERT10N 
* OPEN DRAIN OUTPUT

* XLVC08A         2   4   1   0     INVERTN 
* XLVC10A         2   4   1   0     INVERT 
* XLVC11          2   4   1   0     INVERTN 
* XLVC14A         2   4   1   0     INVERT14A 
* XLVC27          2   4   1   0     INVERT 
* XLVC32A         2   4   1   0     INVERTN

* XLVC38      5   2   4   1  0      INVERT4
* OPEN DRAIN OUTPUT

* XLVC74A         2   4   1   0     INVERTN 
* XLVC86A         2   4   1   0     INVERTN 
* XLVC109         2   4   1   0     INVERT
* XLVC125A    5   2   4   1   0     INVERT7N
* XLVC126A    5   2   4   1   0     INVERT7N
* XLVC138A    0   2   4   1   0     NANDINVN 
* XLVC139     0   2   4   1   0     NANDINVN 
* XLVC157A    0   2   4   1   0     ANDINVN
* XLVC161     5   2   4   1   0     INVERT6N 
* XLVC163     5   2   4   1   0     INVERT6N 
* XLVC169     5   2   4   1   0     INVERT6N 
* XLVC240A    5   2   4   1   0     INVERT3 
* XLVC241A    5   2   4   1   0     INVERT3N 
* XLVC244A    5   2   4   1   0     INVERT3N 
* XLVCH244A   5   2   4   1   0     INVERT3NH
* XLVC2244A   5   2   4   1   0     INVERT5N
* XLVC245A    5   2   4   1   0     INVERT3N 
* XLVCH245A   5   2   4   1   0     INVERT3NH
* XLVC2245A   5   2   4   1   0     INVERT5N
* XLVC257A    0   2   4   1   0     ANDINVN2 
* XLVC273     5   2   4   1   0     INVERT3N
* XLVC373A    5   2   4   1   0     INVERT3N 
* XLVC374A    5   2   4   1   0     INVERT3N
* XLVC377     5   2   4   1   0     INVERT3N 
* XLVC541A    5   2   4   1   0     INVERT3N 
* XLVC543A    5   2   4   1   0     INVERT3N 
* XLVC544A    5   2   4   1   0     INVERT8
* XLVC573A    5   2   4   1   0     INVERT3N
* XLVC574A    5   2   4   1   0     INVERT3N
* XLVC623A    5   2   4   1   0     INVERT3N
* XLVC646A    5   2   4   1   0     INVERT8N 
* XLVC652     5   2   4   1   0     INVERT8N 
* XLVC821A    5   2   4   1   0     INVERT8N
* XLVC823A    5   2   4   1   0     INVERT8N
* XLVC827A    5   2   4   1   0     INVERT8N
* XLVC841A    5   2   4   1   0     INVERT8N
* XLVC2952A   5   2   4   1   0     INVERT8N
* XLVC4245A   5   2   4   1   0     INVERT8N


* Dummy Test Load 

 C2    4   0   50P 
 R1    4   0   500 
 
* R2    4   99   1000
* Use this pullup resistor only with the 74LVC06/07/38 (open drain output)

* Power Supply 
VDD    1   0   DC  3.3 

* Signal Source
VIN1   2   0   PULSE  0  3.0  5N  2N  2N  8N  50N

* Enable Voltage Source
VEN    5   0   DC  0.0  

.TRAN  1.000N   50.000N
.print v(2) v(4)
.TEMP  25
.OPTIONS ITL4 = 50
.OPTIONS POST = 2
.PROBE
.END 
