* http://home.netcom.com/~wb2jia/tubes/spice.txt
*
* http://frank.pocnet.net/sheets/049/6/6HZ6.pdf
* http://frank.pocnet.net/sheets/127/6/6HZ6.pdf

*Vacuum Tube dual control
.SUBCKT X6HZ6 A 3 S G K

*model written to use op-amp symbol +in=g1,-in=g3, +supply=g2g4, -supply=kg5, out=plate
*work in progress, not final
* Calculate contribution to cathode current
*
*the number at the right end determines sharpness of knee
Bat	at  0	V=0.636*ATAN(V(A,K)/24)
*the URAMP(V(S,K)/# mostly determines peak plate current, grid line spacing nearly constant
*the number at the right end determines slope of grid lines (plate resistance)
Bgs	gs  0	V=URAMP((V(S,K)*1.1964+V(G,K)*43.75+V(A,K)*0))
Bgss	gss  0	V=URAMP((V(S,K)*0.0005)+(-(URAMP((SQRT(URAMP(V(K,3))**2.7)))/((((SQRT(V(A,K))**1.5)/5)**1)))*0.0405+V(A,K)/9400))*1+((URAMP(V(3,K))/((SQRT(V(A,K))*11)))*1)*0.5

*the exponent sets the linearity of grid line spacing, and big impact on peak plate currrent
Bgs2	gs2 0	V=V(gs)**1.5
Bgs3	gs3 0	V=V(gss)**1.5
Bcath	cc  0	V=V(gs2)*(V(at))
Ban          an  0        V=V(gs2)*(V(gs3))*(V(at))
*
* Calculate anode current, grid line spacing adjust and peak plate current
*
Ba	A   K	I=0.395E-3*V(an)
*
* Calculate screen current
*
Bscrn	sc  0	V=V(gs2)*(1.0-V(at)*0.9)
Bs	S   K	I=(URAMP(0.34E-3*V(sc)-(1.95E-3*(V(an)))))*0.29*(V(at))*0.37
*
* Grid current (approximation - does not model low va/vs)
*
Bg	G   K	I=(URAMP(V(G,K)+1)**1.5)*50E-6
*
* Capacitances
*
Cg1	G	K	5.5p
Cak	A	K	7.5p
Cg3   3 S  5.6p
Cg1g3 G 3  0.09p
Cg1a	G	A	 0.02p
Cg3a  3 A  1.6p

.ENDS X6HZ6

